US06821967B2
9-[4-(trans-2,5-dimethyl-4-quinolin-2-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 2-(trans-2,5-dimethyl-piperazin-1-yl)-quinoline.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 2-(trans-2,5-dimethyl-piperazin-1-yl)-quinoline | C[C@@H]1N(C[C@H](NC1)C)C1=NC2=CC=CC=C2C=C1 | C15H19N3
product | 9-[4-(trans-2,5-dimethyl-4-quinolin-2-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1[C@H](CN([C@@H](C1)C)C1=NC2=CC=CC=C2C=C1)C)(F)F | C35H37F3N4O
